### PR TITLE
refactor(LocallyNameless): remove unnecessary LC assumptions 

### PR DESCRIPTION
**Pull request by lengyijun**
- Drop `M.LC` param from `step_abs_close`, `redex_abs_close`, `redex_abs_cong`, `step_open_cong_r`, `step_subst_cong_r`, `steps_open_cong_r`, `steps_subst_cong_r`, `FullBeta.steps_open_cong_l_abs`
- Add `@[scoped grind →]` to `FullEta.step_lc_l`

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 1]
```diff
@@ -97,64 +98,64 @@ lemma steps_subst_cong_l {x : Var} (s s' N : Term Var) (steps : s ↠ηᶠ s') (
   | tail _ step ih => grind [step_subst_cong_l]
 
 /-- Abstracting then closing preserves a single η-reduction step. -/
-lemma step_abs_close {x} (step : M ⭢ηᶠ M') (lc_M : LC M) : (M ^* x).abs ⭢ηᶠ (M' ^* x).abs := by
+lemma step_abs_close {x} (step : M ⭢ηᶠ M') : (M ^* x).abs ⭢ηᶠ (M' ^* x).abs := by
   apply Xi.abs ∅
-  grind [step_subst_cong_l]
+  intros _ _
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: The previous proof still seems to work here, why this change?

**Review by chenson2018 — APPROVED** [review]
This is a nice improvement, thank you!
